US08420655B2
3-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-methyl-phenyl}-[1,2,4]oxadiazole-5-carboxylic acid methylamide
To a solution of 3-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-[1,2,4]oxadiazole-5-carboxylic acid methylamide (150 mg, 0.32 mmol) in DMF (2 mL) in a sealed vessel are added 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-ylamine (85 mg, 0.38 mmol), 2 M Na2CO3 solution (0.48 mL, 0.96 mmol) and PdCl2(PPh3)2 (11 mg, 0.02 mmol) at room temperature. The solution is heated to 80° C. for 2 hours. The reaction mixture is cooled to room temperature and filtered through diatomaceous earth and concentrated in vacuo. Purification via flash chromatography (10 g silica gel, 2-3.5% MeOH/CH2Cl2) affords the title compound (18.4 mg, 12%). LCMS (ESMS): m/z 469.30 (M++1)

reactant | 3-[2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-phenyl]-[1,2,4]oxadiazole-5-carboxylic acid methylamide | 0.32 mmol, 150 mg | CNC(=O)C1=NC(=NO1)C1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)Br | C21H20BrN5O2
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidin-2-ylamine | 0.38 mmol, 85 mg | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | Na2CO3 | 0.96 mmol, 2 M, 0.48 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.02 mmol, 11 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-{2-[5-(2-Amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-4-methyl-phenyl}-[1,2,4]oxadiazole-5-carboxylic acid methylamide | 18.4 mg, 12% | CNC(=O)C1=NC(=NO1)C1=C(C=C(C=C1)C)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC(=NC2)N | C26H26N8O2
